US07262185B2
To a solution of 1-propylimidazole (8.0 g) in dry THF (100 ml), 1.6M n-butyllithium hexane solution (54.5 ml) was at 0° C. under argon atmosphere. After the mixture was allowed to be at room temperature and was stirred for 2 hours, a solution of 4-nitrobenzaldehyde (9.97 g) in dry THF (100 ml) was added dropwise to the mixture at −78° C. The mixture was allowed to be at room temperature and was stirred overnight, and then, 1N hydrochloric acid was added to the mixture at 0° C. The mixture was neutralized with potassium carbonate, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the obtained residue was recrystallized from ethyl acetate-diisopropyl ether, to give (4-nitrophenyl)[2-(1-propyl)imidazolyl]methanol (5.26 g) as brown crystals.

reactant | 1-propylimidazole | 8.0 g | C(CC)N1C=NC=C1 | C6H10N2
reactant | 4-nitrobenzaldehyde | 9.97 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
solvent | n-butyllithium hexane | 1.6M, 54.5 ml | CCCCCC.C(CCC)[Li]
product | (4-nitrophenyl)[2-(1-propyl)imidazolyl]methanol | 5.26 g | [N+](=O)([O-])C1=CC=C(C=C1)C(O)C=1N=C(NC1)CCC | C13H15N3O3
